US06235731B1
2) Synthesis of N-[4-(3-phenylpropan-1-yl)-2,3,5,6-tetrahydro-7H-1,4-diazepin-1-ylcarbonylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To a solution of 1.00 g (2.1 mmol.) of N-[4-(3-phenylpropan-1-yl)-2,3,5,6-tetrahydro-7H-1,4-diazepin-1-ylcarbonylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (10 ml) was added, at room temperature, 1 ml (12 mmol.) of 12N hydrochloric acid. The mixture was stirred for several minutes, followed by concentration under reduced pressure. To the resulting crystals was added diethyl ether. The crystals were collected by filtration, which were washed with ethanol and diethyl ether to give the object product as orange crystals. The yield was 0.996 g (86%).

reactant | N-[4-(3-phenylpropan-1-yl)-2,3,5,6-tetrahydro-7H-1,4-diazepin-1-ylcarbonylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 2.1 mmol, 1.00 g | C1(=CC=CC=C1)CCCN1CCN(CCC1)C(=O)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C26H29N5O2S
reactant | hydrochloric acid | 12 mmol, 12N, 1 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[4-(3-phenylpropan-1-yl)-2,3,5,6-tetrahydro-7H-1,4-diazepin-1-ylcarbonylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCN1CCN(CCC1)C(=O)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C26H29N5O2S.2ClH/c32-24(30-14-6-13-29(15-16-30)12-5-9-20-7-2-1-3-8-20)19-28-26(33)22-17-21-18-27-23-10-4-11-25(34-22)31(21)23;;/h1-4,7-8,10-11,17-18H,5-6,9,12-16,19H2,(H,28,33);2*1H
